US05258396
Ethyl 4-(1-(2,4'-difluoro-4-biphenylyl)ethyl)-2-methylamino-5-thiazolecarboxylate (1.00 g, 2.48 mmole) was dissolved in methanol (20 ml). After adding a solution of potassium hydroxide (420 mg, 7.49 mmole) in water (4 ml), the mixture was heated under reflux for 5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with water and washed with ether. The water layer was acidified to about pH 4 with 1chloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated under reduced pressure Recrystallization of the residue from methanol gave the desired 4-(1-(2,4'-difluoro-4-biphenylyl-)ethyl)-2-methylamino-5-thiazolecarboxylic acid (599 mg, 1.60 mmoles, yield 65%) as a white crystalline product.

reactant | Ethyl 4-(1-(2,4'-difluoro-4-biphenylyl)ethyl)-2-methylamino-5-thiazolecarboxylate | 2.48 mmole, 1.00 g | FC1=C(C=CC(=C1)C(C)C=1N=C(SC1C(=O)OCC)NC)C1=CC=C(C=C1)F | C21H20F2N2O2S
reactant | potassium hydroxide | 7.49 mmole, 420 mg | [OH-].[K+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 4-(1-(2,4'-difluoro-4-biphenylyl-)ethyl)-2-methylamino-5-thiazolecarboxylic acid | 1.60 mmoles, 599 mg, yield 65% | FC1=C(C=CC(=C1)C(C)C=1N=C(SC1C(=O)O)NC)C1=CC=C(C=C1)F | C19H16F2N2O2S
